US04011238
EXAMPLE 4: 1-(m-Chlorophenyl)-4-methyl-3-[2-(3,3-dipropylazetidin-1-yl)-1-methylethyl]-2-imidazolidinone
A mixture of 7 g. of 3-(2-chloro-1-methylethyl)-1-(m-chlorophenyl)-4-methyl-2-imidazolidinone and 10 g. of 3,3-dipropylazetidine in 100 ml. of anhydrous benzene is heated in a bomb at 150°-160° C. for 8 hours. The solvent is evaporated under vacuum and the residue is taken up with water, alkalinized with aqueous sodium carbonate and extracted with diethyl ether. The residue obtained by evaporation of the organic layer is purified by column chromatography through silica gel, using as the eluent chloroform containing 8% of methanol. Yield 8.6 g., b.p. 220° C./0.5 mm Hg.

reactant | 3-(2-chloro-1-methylethyl)-1-(m-chlorophenyl)-4-methyl-2-imidazolidinone | ClCC(C)N1C(N(CC1C)C1=CC(=CC=C1)Cl)=O | C13H16Cl2N2O
reactant | 3,3-dipropylazetidine | C(CC)C1(CNC1)CCC | C9H19N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(m-Chlorophenyl)-4-methyl-3-[2-(3,3-dipropylazetidin-1-yl)-1-methylethyl]-2-imidazolidinone | ClC=1C=C(C=CC1)N1C(N(C(C1)C)C(CN1CC(C1)(CCC)CCC)C)=O | C22H34ClN3O
